US05587504
Synthesis of 2-cyclopropyl-3-(2'-methoxycarbonylbiphenyl-4-yl)methyl-7-methyl-3H-imidazo-[4,5-b]pyridine
Toluene (30 ml) was mixed with 3.0 g (6.3 mmol) of 2-cyclopropyl-3-(2'-methoxycarbonylbiphenyl-4-yl)methyl-6-bromo-7-methyl-3H-imidazo[4,5-b]pyridine, 10% Pd-C (100 mg) and 9.6 g (95 mmol) of triethylamine, followed by the dropwise addition of 2.9 g (63 mmol) of formic acid under stirring. The obtained mixture was heated under reflux for 10 hours. The reaction liquid was brought to room temperature, and filtered to remove the catalyst, and then the filtrate was subjected to vacuum concentration. Chloroform (100 ml) and water (100 ml) were added to the residue and the obtained mixture was caused liquid--liquid separation. The aqueous phase was further extracted with chloroform (50 ml) twice. The organic phases were combined, dried over anhydrous magnesium sulfate and subjected to vacuum concentration. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 2.3 g of the title compound (yield 92%).

reactant | 2-cyclopropyl-3-(2'-methoxycarbonylbiphenyl-4-yl)methyl-6-bromo-7-methyl-3H-imidazo[4,5-b]pyridine | 6.3 mmol, 3.0 g | C1(CC1)C1=NC=2C(=NC=C(C2C)Br)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C25H22BrN3O2
reactant | triethylamine | 95 mmol, 9.6 g | C(C)N(CC)CC | C6H15N
reactant | formic acid | 63 mmol, 2.9 g | C(=O)O | CH2O2
catalyst | Pd-C | 100 mg | [Pd] | Pd
solvent | Toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyclopropyl-3-(2'-methoxycarbonylbiphenyl-4-yl)methyl-7-methyl-3H-imidazo-[4,5-b]pyridine | 2.3 g, yield 92% | C1(CC1)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C25H23N3O2
